US07294650B2
i) Ethyl 3-[(3-bromophenyl)thio]propanoate
A mixture of 1-bromo-3-iodobenzene (3 g) and 1,1′-bis(diphenylphosphino)ferrocene (90 mg) in dimethylformamide (10 ml) and triethylamine (2 ml) was treated with tris(dibenzylideneacetone)dipalladium (175 mg) at 20° C. under nitrogen. After 10 min ethyl 3-mercaptopropionate (1.14 ml) was added and the mixture was heated to 60° C. for 1.5 h. The mixture was diluted with ethyl acetate and washed with 2M hydrochloric acid, brine and dried (MgSO4). The filtrate was concentrated and chromatographed on a biotage cartridge (40 g) eluting with dichloromethane-cyclohexane (1:3) to give the title compound (1.58 g) LCMS RT=3.50 min

reactant | 1-bromo-3-iodobenzene | 3 g | BrC1=CC(=CC=C1)I | C6H4BrI
reactant | ethyl 3-mercaptopropionate | 1.14 ml | SCCC(=O)OCC | C5H10O2S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 90 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tris(dibenzylideneacetone)dipalladium | 175 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Ethyl 3-[(3-bromophenyl)thio]propanoate | 1.58 g | BrC=1C=C(C=CC1)SCCC(=O)OCC | C11H13BrO2S
